US07560571B2
To 0.055 g (0.233 mmol) of 5-chloro-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide dissolved in 5 cm3 of tetrahydrofuran is added, at a temperature in the region of 20° C. under an argon atmosphere, 0.035 cm3 (0.245 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate. After stirring for 2 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue, which is recrystallized from 4 cm3 of acetonitrile. After filtering through a No. 3 sinter funnel, the solid is washed with 2 cm3 of acetonitrile and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 35° C. for 4 hours to give 0.076 g of 5-chloro-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrole-2-carboxamide in the form of a yellow solid; 1H NMR (400 MHz, DMSO d6, δ in ppm): 6.16 (s, 1H); 6.45 (broad m, 1H); 7.12 (broad m, 1H); 7.38 (partially masked m, 1H); 7.40 (d, J=9.0 Hz, 2H); 7.45 (d, J=9.0 Hz, 2H); 7.49 (dd, J=9.0 and 11.0 Hz, 1H); 8.63 (dd, J=2.0 and 7.5 Hz, 1H); 8.90 (d, J=2.5 Hz, 1H); 9.22 (s, 1H); 12.1 (broad m, 1H); ES+: m/z=291: [M+Na]+.

reactant | 5-chloro-3-(4-aminophenyl)-1H-pyrrole-2-carboxamide | 0.233 mmol, 0.055 g | ClC1=CC(=C(N1)C(=O)N)C1=CC=C(C=C1)N | C11H10ClN3O
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.245 mmol, 0.035 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | tetrahydrofuran | 5 cm3 | O1CCCC1 | C4H8O
product | 5-chloro-3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrole-2-carboxamide | 0.076 g | ClC1=CC(=C(N1)C(=O)N)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C19H13ClF4N4O2
